US04940710
1-Ethyl-5,6,8-trifluoro-1,4-dihydro-7-(3-methyl-1-piperazinyl)-4-oxo-3-quinolinecarboxylic acid
A 289 mg portion of 1-ethyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid was dissolved in 3 ml of 1-methyl-2-pyrrolidone. A 390 mg portion of 2-methyl piperazine was added, the mixture was stirred for 18 hours and then diluted with ether. The solid was collected, washed with hexane, dried and recrystallized from dichloromethane-acetone, giving 240 mg of solid. This solid was purified by chromatography, eluting with a gradient of chloroform-methanol-water and then a gradient of chloroform-methanol-water-acetic acid. The active fractions were combined and partitioned between dilute sodium bicarbonate and dichloromethane. The organic layer was dried and evaporated. The solid was recrystallized from dichloromethane-hexane, giving 100 mg of the desired product as off-white crystals, mp 220°-222° C.

reactant | 1-ethyl-5,6,7,8-tetrafluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | C(C)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)F)=O)C(=O)O | C12H7F4NO3
reactant | 2-methyl piperazine | CC1NCCNC1 | C5H12N2
solvent | 1-methyl-2-pyrrolidone | 3 ml | CN1C(CCC1)=O | C5H9NO
solvent | ether | CCOCC | C4H10O
product | 1-Ethyl-5,6,8-trifluoro-1,4-dihydro-7-(3-methyl-1-piperazinyl)-4-oxo-3-quinolinecarboxylic acid | 240 mg | C(C)N1C=C(C(C2=C(C(=C(C(=C12)F)N1CC(NCC1)C)F)F)=O)C(=O)O | C17H18F3N3O3
